US04933453
3-[4-[1-(6-Chloro-1,2-benzisothiazol-3-yl)-4-piperazinyl]butyl]-1-thia-3-azaspiro[4.5]decan-4-one hydrochloride
A mixture of 3-(4-bromobutyl)-1-thia-3-azaspiro[4.5]decanone (2.7 g), 6-chloro-1,2-benzisothiazol-3-yl piperazine (2.0 g), K2CO3 (2.2 g) and NaI (200 mg) in acetonitrile (100 ml) was heated at 80° C. for 8 hours and the product was processed in substantially the same manner as in Example 10 to afford 1.557 g of solid, m.p. 202°-205° C.

reactant | 3-(4-bromobutyl)-1-thia-3-azaspiro[4.5]decanone | 2.7 g | BrCCCCN1CS(C2(C1)CCCCC2)=O | C12H22BrNOS
reactant | 6-chloro-1,2-benzisothiazol-3-yl piperazine | 2.0 g | ClC1=CC2=C(C(=NS2)N2CCNCC2)C=C1 | C11H12ClN3S
reactant | K2CO3 | 2.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 200 mg | [Na+].[I-]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 3-[4-[1-(6-Chloro-1,2-benzisothiazol-3-yl)-4-piperazinyl]butyl]-1-thia-3-azaspiro[4.5]decan-4-one hydrochloride | 1.557 g | Cl.ClC1=CC2=C(C(=NS2)N2CCN(CC2)CCCCN2CSC3(C2=O)CCCCC3)C=C1 | InChI=1S/C23H31ClN4OS2.ClH/c24-18-6-7-19-20(16-18)31-25-21(19)27-14-12-26(13-15-27)10-4-5-11-28-17-30-23(22(28)29)8-2-1-3-9-23;/h6-7,16H,1-5,8-15,17H2;1H
